data/core_train_final.csv
"CC(C)C(/C=N/N(C1=CC=CC=C1)C2=CC=CC=C2)O[Si](C)(C)[CH:21]=[CH2:20].C1=CC=C(C=C1)[S:10]>>CC(C)C(/C=N/N(C1=CC=CC=C1)C2=CC=CC=C2)O[Si](C)(C)[CH:21][CH2:20][S:10]C3=CC=CC=C3 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCCCC[CH2:10].[Cl:20][Cl:21]>>CCCCCC[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCC[CH2:10].[Cl:20][Cl:21]>>CCCCC[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]1([CH:21]2[CH2:22][CH:4]1[C:5]([CH:13]([CH2:20]2)[O:14][O:15][C:16]([CH3:17])([CH3:18])[CH3:19])[CH2:6][S:7][CH2:8][C:9](=[O:12])[O:10][CH3:11])[CH3:3]>>[CH3:1][C:2]1([CH:21]2[CH2:22][CH:4]1[C:5]3([CH:13]([CH2:20]2)[O:14]3)[CH2:6][S:7][CH2:8][C:9](=[O:12])[O:10][CH3:11])[CH3:3].[CH3:17][C:16]([CH3:18])([CH3:19])[O:15] 14,15-15; 14,15-14,5; 5-14,5",Room Temperature,Propagation,retroaddition
"[H:7][O:6][CH:5]1[CH2:8][CH:9]2[CH2:10][CH:11]([C:12]2([CH3:13])[CH3:14])[C:2]1([CH3:1])[O:3][O:4].[H:15][O:16][O:17]>>[H:7][O:6][CH:5]1[CH2:8][CH:9]2[CH2:10][CH:11]([C:12]2([CH3:13])[CH3:14])[C:2]1([CH3:1])[O:3][O:4][H:15].[O:16][O:17] 4-4,15; 15,16-16; 15,16-4,15",Room Temperature,Propagation,abstraction
"C1=CC=CC=[C:10]1[CH2:20][CH2:21].[CH2:41][CH2:40][C:30]1=CC=CC=C1>>C1=CC=CC=[C:10]1[CH2:20][CH2:21][CH2:41][CH2:40][C:30]1=CC=CC=C1 21-21,41;41-21,41",Room Temperature,Termination,recombine
"[CH2:3]1[CH2:4][C:7](=[O:8])[N:5]([C:2]1=[O:1])[Br:6].[Ar]>>[Ar].[CH2:3]1[CH2:4][C:7](=[O:8])[N:5][C:2]1=[O:1].[Br:6] 6,5-5;5,6-6",Heat,Initiation,homolyze
"[H:1][C:2]1[CH:20]=[CH:19][CH:18]=[CH:17][C:3]1=[C:4]([C:5]2=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]2)[C:11]3=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16]3>>[H:1][C:2]1=[C:3]([CH:17]=[CH:18][CH:19]=[CH:20]1)[C:4]([C:5]2=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]2)[C:11]3=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16]3 2-2,3; 3,4-2,3; 3,4-4",Room Temperature,Propagation,resonance
"[H:4][O:3].[H:1][F:2]>>[H:4][O:3][H:1].[F:2] 3-3,1; 2,1-3,1; 2,1-2",Room Temperature,Propagation,abstraction
"[H:4][C:3]([H:5])[CH:2]=[CH2:1].[H:7][Cl:6].[Cl:8]>>[H:4][C:3]([H:5])([CH:2]=[CH2:1])[Cl:8].[H:7][Cl:6] 3-3,8;8-3,8",Room Temperature,Termination,recombine
"[H:1][C:2]([H:3])[CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8]1.[H:9][Sn:10]([CH2:11][CH2:12][CH2:13][CH3:14])([CH2:15][CH2:16][CH2:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH3:22]>>[H:1][C:2]([H:3])([H:9])[CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8]1.[CH3:14][CH2:13][CH2:12][CH2:11][Sn:10]([CH2:15][CH2:16][CH2:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH3:22] 2-2,9; 9,10-2,9;9,10-10",Room Temperature,Propagation,abstraction
"[O:10][O:9].[CH3:1][C:2]([CH3:8])[O:3][C:4]([CH3:5])([CH3:6])[CH3:7]>>[O:10][O:9][C:2]([CH3:1])([CH3:8])[O:3][C:4]([CH3:5])([CH3:6])[CH3:7] 9-9,2; 2-2,9",Room Temperature,Termination,recombine
"C[CH:10]CC(C)C.[Cl:20][Cl:21]>>CC(C)C[CH:10](C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:10]CC(C(Cl)(Cl)Cl)F.[Cl:20][Cl:21]>>C([CH2:10][Cl:20])C(C(Cl)(Cl)Cl)F.[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:9][Cl:8].[CH3:5][CH2:4][C:3]([CH2:6][CH3:7])[CH:2]=[CH2:1].[Cl:10]>>[H:9][Cl:8].[CH3:5][CH2:4][C:3]([CH2:6][CH3:7])([CH:2]=[CH2:1])[Cl:10] 10-3,10;3-3,10",Room Temperature,Termination,recombine
"[CH2:6]=[CH:7][CH:8]=[CH2:9].[CH2:5][CH:4]=[CH:3][CH2:2][OH:1]>>[CH2:9][CH:8]=[CH:7][CH2:6][CH2:5][CH:4]=[CH:3][CH2:2][OH:1] 5-5,6; 6,7-5,6; 6,7-7,8; 8,9-9; 8,9-7,8",Room Temperature,Propagation,addition
"[H:20][Br:21].C[C:10]1CCCCC1Br>>[H:20][C:10]1(CCCCC1Br)C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:8][C:7]1[CH:6]=[CH:5][C:4]2=[CH:10][C:11]3=[C:12]([CH:13]=[CH:14][CH:15]=[CH:16]3)[C:2](=[O:1])[C:3]2=[CH:9]1>>[H:8][C:7]1=[CH:9][C:3]2[C:4](=[CH:10][C:11]3=[C:12]([C:2]2=[O:1])[CH:13]=[CH:14][CH:15]=[CH:16]3)[CH:5]=[CH:6]1 7-7,9; 3,9-7,9; 3,9-3",Room Temperature,Propagation,resonance
"[H:20][CH:21](C1=CC=CC=C1)[O:22].[O:10][O]>>[H:20][O:10][O].C1=CC=C(C=C1)[CH:21]=[O:22] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:20][C:21](C)(C1=CC=CC=C1)Br.[Br:10]>>[H:20][Br:10].C[C:21](C1=CC=CC=C1)Br 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]1([CH:7]2[CH2:6][CH2:5][C:4]([CH:3]1[CH2:8]2)[CH2:9][CH2:10][C:11](=[O:14])[CH2:12][Cl:13])[CH3:15]>>[CH3:1][C:2]([CH3:15])[CH:7]1[CH2:6][CH2:5][C:4](=[CH:3][CH2:8]1)[CH2:9][CH2:10][C:11](=[O:14])[CH2:12][Cl:13] 2,3-3,4; 2,3-2; 4-3,4",Room Temperature,Propagation,retroaddition
"[H:4][C:3]([CH:2]=[CH2:1])[CH:5]=[CH2:6].[Br:7]>>[H:4][C:3]([CH:2]=[CH2:1])([CH:5]=[CH2:6])[Br:7] 7-7,3;3-7,3",Room Temperature,Termination,recombine
"[OH:20][OH:21].[Ar]>>[Ar].[OH:20].[OH:21] 20,21-20;20,21-21",Heat,Initiation,homolyze
"[H:1][O:2][O:3][H:4].[He]>>[He].[H:1][O:2].[H:4][O:3] 2,3-3; 3,2-2",Light,Initiation,homolyze
